US06953785B2
N-[3-(2-Pyrazinyl)propyl]phthalimide (521 mg, 1.95 mmol) was dissolved in chloroform (15 mL) followed by addition of anhydrous hydrazine (1.5 mL), and then the mixture was stirred at room temperature for 20 hours. The resulting precipitate was removed by filtration, and the filtrate was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and 2-(3-aminopropyl)pyrazine (240 mg; yield 90%) was thus obtained.

reactant | N-[3-(2-Pyrazinyl)propyl]phthalimide | 1.95 mmol, 521 mg | N1=C(C=NC=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H13N3O2
reactant | hydrazine | 1.5 mL | NN | H4N2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-aminopropyl)pyrazine | 240 mg, yield 90% | NCCCC1=NC=CN=C1 | C7H11N3
